US09029402B2
A mixture of ethyl 3-(1-(4-bromophenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate (50 mg, 0.11 mmol), imidazole (68 mg, 10 mmol), L-proline (13 mg, 0.11 mmol), CuI (42 mg, 0.22 mmol), K2CO3 (76 mg, 0.55 mmol) and 4 Å molecular sieve (100 mg) in DMSO (3 mL) was heated at 130° C. for 24 h. After being cooled down to room temperature, the reaction mixture was filtered, and the filter cake was washed with ethyl acetate (10 mL×3). The combined filtrate was washed with saturated NaHCO3 aqueous solution (30 mL), and the aqueous layer was extracted with ethyl acetate (15 mL×3). The combined organic layers were washed with brine, dried over MgSO4, and concentrated. The residue was purified by preparative TLC (eluting with 7% methanol in dichloromethane) to give ethyl 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate, (5-3, R1=1H-imidazol-1-yl) (25 mg, yield: 51%), which was used in the next step without further purification.

reactant | ethyl 3-(1-(4-bromophenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate | 0.11 mmol, 50 mg | BrC1=CC=C(C=C1)N1C(=C(C=C1)CCC(=O)OCC)C1=C(C=C(C=C1)C(N)=O)C | C23H23BrN2O3
reactant | imidazole | 10 mmol, 68 mg | N1C=NC=C1 | C3H4N2
reactant | L-proline | 0.11 mmol, 13 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 0.55 mmol, 76 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.22 mmol, 42 mg | [Cu]I
product | ethyl 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate | yield: 51% | N1(C=NC=C1)C1=CC=C(C=C1)N1C(=C(C=C1)CCC(=O)OCC)C1=C(C=C(C=C1)C(N)=O)C | C26H26N4O3
